US07612075B2
To the suspension of 2-[4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-2-oxo-piperazin-1-ylmethyl]-6,7-dihydro-5H-benzothiazol-4-one (7 mg, 0.01 mmol) in EtOH (1 mL) is added sodium borohydride (3 mg, 0.08 mmol). After 15 min the reaction is diluted with EtOAc and washed with 1N HCl, NaHCO3 and brine. The solution is dried (MgSO4) and concentrated to provide 4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-1-(4-hydroxy-4,5,6,7-tetrahydro-benzothiazol-2-ylmethyl)-piperazin-2-one. 1H NMR (300 MHz, CDCl3) δ 7.88-7.82 (m, 3H), 7.46 (dd, 1H), 4.83-4.81 (m, 1H), 4.76 (s, 1H), 4.75 (s, 1H), 3.92 (s, 1H), 3.91 (s, 1H), 3.62-3.55 (m, 2H), 3.47-3.41 (m, 2H), 2.76-2.62 (m, 2H), 2.05-1.78 (m, 4H); MS (Ion Spray) 498 (M+H)+.

reactant | 2-[4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-2-oxo-piperazin-1-ylmethyl]-6,7-dihydro-5H-benzothiazol-4-one | 0.01 mmol, 7 mg | ClC=1C=CC2=C(SC(=C2)S(=O)(=O)N2CC(N(CC2)CC=2SC3=C(N2)C(CCC3)=O)=O)C1 | C20H18ClN3O4S3
reactant | sodium borohydride | 0.08 mmol, 3 mg | [BH4-].[Na+]
solvent | EtOH | 1 mL | CCO | C2H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-1-(4-hydroxy-4,5,6,7-tetrahydro-benzothiazol-2-ylmethyl)-piperazin-2-one | ClC=1C=CC2=C(SC(=C2)S(=O)(=O)N2CC(N(CC2)CC=2SC3=C(N2)C(CCC3)O)=O)C1 | C20H20ClN3O4S3
